US05317016
To a solution of (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate (20.78 g) in dimethylformamide (200 ml), potassium phthalimide (9.61 g) is added. The mixture is stirred at 70° C. for 3 hours. The reaction mixture is poured into a mixture of water and ethyl acetate. The organic layer is taken, successively washed with dilute aqueous sodium hydroxide and water, dried over sodium sulfate, and concentrated in vacuo. The residue is purified by 5% wet silica gel column chromatography to give (2S,4R)-1-t-butoxycarbonyl-2-phthalimidomethyl-4-methanesulfonyloxypyrrolidine (11.17 g). Yield: 60%. Colorless foam. NMR δ(CDCl3) ppm: 1.33, 1.42(2×s, 9H), 2.0 to 2.55(m, 2H), 3.02(s, 3H), 3.4 to 4.6(m, 5H), 5.15 to 5.3(m, 1H), 7.6 to 7.95(m, 4H). IR ν (CHCl3) cm-1 : 1775, 1716, 1693.

reactant | (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate | 20.78 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C)C | C18H27NO8S2
reactant | potassium phthalimide | 9.61 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-1-t-butoxycarbonyl-2-phthalimidomethyl-4-methanesulfonyloxypyrrolidine | 11.17 g, Yield: 60% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C19H24N2O7S
